US08314081B2
To a 100 mL dry round bottom flask were added tetrahydro-pyran-4-carboxylic acid (2.8 g, 21.5 mmol), thionyl chloride (2.8 mL, 34.4 mmol). The mixture was refluxed for 45 minutes, then all the volatile materials were rotary-evaporated. To the residue, anhydrous CH2Cl2 (10 mL) was added. The resulting solution was cooled to 0° C., and pyridine (2.63 g, 21.5 mmol) was added, followed by a solution of 4-hydroxybenzaldehyde (2.04 g, 25.8 mmol) in anhydrous CH2Cl2 (30 mL). The reaction mixture was stirred and warmed from 0° C. to room temperature slowly, then at room temperature overnight. To the reaction mixture, water (60 mL) was added and the CH2Cl2 layer was separated. The aqueous layer was extracted continually with CH2Cl2 (50 mL×3). The combined CH2Cl2 solution was washed with a cold aqueous solution of saturated NaHCO3 (80 mL). After drying and removal of the solvent, the residue was purified with a silica gel chromatography (heptane/ethyl acetate, gradient eluting) to give 4-formylphenyl tetrahydro-2H-pyran-4-carboxylate (4.40 g) as colorless oil. Yield: 87%. 1H NMR (CDCl3, 300 MHz): δ=9.97 (s, 1H), 7.91 (d, J=8.7 Hz, 2H), 7.27 (d, J=8.4 Hz, 2H), 4.06-4.00 (m, 2H), 3.55-3.47 (m, 2H), 2.88-2.81 (m, 1H), 2.03-1.88 (m, 4H). 13C NMR (CDCl3, 75.5 MHz): δ=190.9, 172.2, 155.3, 133.9, 131.1, 122.2, 115.9, 66.8, 40.1, 28.4.

reactant | tetrahydro-pyran-4-carboxylic acid | 21.5 mmol, 2.8 g | O1CCC(CC1)C(=O)O | C6H10O3
reactant | thionyl chloride | 34.4 mmol, 2.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 21.5 mmol, 2.63 g | N1=CC=CC=C1 | C5H5N
reactant | 4-hydroxybenzaldehyde | 25.8 mmol, 2.04 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | 60 mL | O | H2O
product | 4-formylphenyl tetrahydro-2H-pyran-4-carboxylate | 4.40 g, Yield: 87% | O1CCC(CC1)C(=O)OC1=CC=C(C=C1)C=O | C13H14O4
